* Auto-generated SPICE netlist (NO TEXT OCR USED)

Q1 0 n1 n3 QNPNdefault
* UNSNAPPED Resistor raw_nodes=[0, None]
R1 n2 n1 1k
.model QNPNdefault NPN

* --- design-intent repair (does not change topology) ---
Rshunt_n1 n1 0 1e+09

.op
.end
