* Auto-generated SPICE netlist (NO TEXT OCR USED)

R1 n3 n4 1k
R2 n4 n1 1k
I1 n4 n1 AC 1m
R3 n2 n1 1k
R4 n3 n2 1k
R5 n6 n8 1k
R6 n1 0 1k
I2 n7 n5 AC 1m
I3 n5 n7 DC 1m
D1 n8 n5 Ddefault
V1 n2 0 DC 5
.model Ddefault D

* --- design-intent repair (does not change topology) ---
Rshunt_n5 n5 0 1e+09

.op
.end
